US07632832B2
Step B. 4-Benzyl-1-(1-benzylpiperidin-4-yl)-1,3-dihydro-2H-imidazol-2-one
Diisobutylaluminum hydride (1M, 2.53 mL, 2.53 mmol) was added to a solution of methyl N-{[(1-benzylpiperidin-4-yl)amino]carbonyl}phenylalaninate (800 mg, 2.02 mmol) in toluene (7.5 mL) and dichloromethane (7.5 μL) at −78° C. and stirred for 30 min and then warmed to ambient temperature. After 5 min at room temperature, the reaction was quenched with saturated potassium sodium tartrate solution (20% solution), extracted with dichloromethane and treated with a 4 N HCl solution (50 mL). After 30 min. the mixture was extracted with water, basified to pH=7, and extracted with dichloromethane (3×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. Purification by column chromatography (silica gel, 0 to 8% {1% ammonium hydroxide/methanol} in methylene chloride gradient elution), gave the title compound (250 mg). MS 348.3 (M+1)

reactant | Diisobutylaluminum hydride | 2.53 mmol, 1M, 2.53 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl N-{[(1-benzylpiperidin-4-yl)amino]carbonyl}phenylalaninate | 2.02 mmol, 800 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC | C23H29N3O3
solvent | toluene | 7.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 7.5 μL | ClCCl | CH2Cl2
product | 4-Benzyl-1-(1-benzylpiperidin-4-yl)-1,3-dihydro-2H-imidazol-2-one | 250 mg | C(C1=CC=CC=C1)C=1NC(N(C1)C1CCN(CC1)CC1=CC=CC=C1)=O | C22H25N3O
